US07772271B2
To a solution of 6-nitroindole (16.2 g, 100 mmol) in DMF (60 mL) at 0° C. was added chlorosulfonylisocyanate (10.9 mL, 125.0 mmol). The mixture was then stirred at room temperature overnight, poured into ice-water (1.0 L) and stirred for 3 h. The precipitate was filtered, washed with water and dried in air to provide 3-cyano-6-nitroindole (17.63 g, 94%).

reactant | 6-nitroindole | 100 mmol, 16.2 g | [N+](=O)([O-])C1=CC=C2C=CNC2=C1 | C8H6N2O2
reactant | chlorosulfonylisocyanate | 125.0 mmol, 10.9 mL | ClS(=O)(=O)N=C=O | CClNO3S
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 3-cyano-6-nitroindole | 17.63 g, 94% | C(#N)C1=CNC2=CC(=CC=C12)[N+](=O)[O-] | C9H5N3O2
